US04912098
A solution of 1.0 g of 17-acetoxy-11β,21-dihydroxy-6α-methyl-4-pregnene-3,20-dione in 20 ml of pyridine is combined with 3 ml of butyric anhydride and stirred at room temperature for 2 hours. The reaction solution is then allowed to flow into 150 ml of cooled 8% sulfuric acid and agitated for another 5 hours; the product, initially precipitated in oily form, becomes completely crystallized. The product is vacuum-filtered, washed with water, and dried for 6 hours at 80° C. in a vacuum drying cabinet. For purifying purposes, the crude product is recrystallized from acetone-diisopropyl ether, thus obtaining 940 mg of 17-acetoxy-21-butyryloxy-11β-hydroxy-6α-methyl-4-pregnene-3,20-dione, mp 98°-120° C.

reactant | 17-acetoxy-11β,21-dihydroxy-6α-methyl-4-pregnene-3,20-dione | 1.0 g | C(C)(=O)O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C24H34O6
reactant | butyric anhydride | 3 ml | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 17-acetoxy-21-butyryloxy-11β-hydroxy-6α-methyl-4-pregnene-3,20-dione | 940 mg | C(C)(=O)O[C@]1(C(COC(CCC)=O)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C28H40O7
